US04795486
A solution of 9.4 g of diphenyl carbonate and 65 ml of dimethylformamide is allowed to run into a mixture of 1.9 g of a 55% sodium hydride dispersion and 20 ml of dimethylformamide at 10°-15° C. 6.4 g of 3-amino-5-chloro-1-methylpyrazin-2-one are then introduced in portions at the same temperature and the mixture is stirred for a further 45 minutes. The mixture is filtered, the filtrate is poured into a mixture of 270 ml of ethyl aceate, 270 ml of ice-water and 42 ml of 7% hydrochloric acid, the organic phase is washed with water and sodium chloride solution and dried over sodium sulfate, the solution is concentrated and the product which has precipitated out is filtered off to give 6.5 g of phenyl N-(5-chloro-1-methylpyrazin-2-on-3-yl)-carbamate.

reactant | diphenyl carbonate | 9.4 g | C(OC1=CC=CC=C1)(OC1=CC=CC=C1)=O | C13H10O3
reactant | sodium hydride | [H-].[Na+]
reactant | 3-amino-5-chloro-1-methylpyrazin-2-one | 6.4 g | NC=1C(N(C=C(N1)Cl)C)=O | C5H6ClN3O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 65 ml | CN(C=O)C | C3H7NO
product | phenyl N-(5-chloro-1-methylpyrazin-2-on-3-yl)-carbamate | 6.5 g | ClC=1N=C(C(N(C1)C)=O)NC(OC1=CC=CC=C1)=O | C12H10ClN3O3
